US07323455B2
5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-fluorobenzonitrile
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-bromo-2-fluorobenzonitrile generally according to the coupling procedure described in examples 82 and 1. 1H-NMR (DMSO-d6) δ 10.02 (s, 1H), 8.32 (dd, J=6.3, 2.4 Hz, 1H), 8.11 (m, 1H), 7.62 (m, 1H), 7.58 (m, 2H), 7.19 (d, J=8.8 Hz, 1H), 4.26 (s, 2H), 1.62 (s, 6H); MS (ES) m/z 311 (M+H)+.

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 5-bromo-2-fluorobenzonitrile | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
product | 5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-fluorobenzonitrile | CC1(OCC(NC2=C1C=C(C=C2)C=2C=CC(=C(C#N)C2)F)=O)C | C18H15FN2O2
